US05576324
3-Isopropyl-5-methoxy-8-methylcarbostyril
2-Chloro-3-isopropyl-5-methoxy-8-methylquinoline (2.65 g, 10.6 mmol) was dissolved in acetic acid (70 ml), and the solution was stirred at 120° C. for 15 hours. The reaction solution was condensed under reduced pressure, and the resultant residue was recrystallized from chloroform-ethyl acetate. 2.10 g of the title compound was obtained as pale yellow powdery crystals (85.6%).

reactant | 2-Chloro-3-isopropyl-5-methoxy-8-methylquinoline | 10.6 mmol, 2.65 g | ClC1=NC2=C(C=CC(=C2C=C1C(C)C)OC)C | C14H16ClNO
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 3-Isopropyl-5-methoxy-8-methylcarbostyril | 2.10 g | C(C)(C)C=1C(NC2=C(C=CC(=C2C1)OC)C)=O | C14H17NO2
